US07652007B2
a) Methyl 2-benzyloxycarbonylamino-3-hydroxy-2-methylpropionate
250 mg (2.1 mmol) of 2-amino-3-methylhydroxypropanoic acid are dissolved in 9 ml of anhydrous MeOH. The reaction solution is cooled in an ice bath, and 0.153 ml (2.1 mmol) of SOCl2 is slowly added dropwise. The solution is allowed to reach room temperature slowly overnight. The reaction solution is concentrated in vacuo and then mixed with 1 ml of EtOAc and 5 ml of saturated NaHCO3 (aqueous), followed by 0.285 ml (1.995 mmol) of benzyl chloroformate. The solution is stirred at room temperature overnight. Then 5 ml of EtOAc are added, and the organic phase is separated off and washed twice with 1 ml of 1N HCl (aq) each time and twice with 2 ml of a saturated NaHCO3 (aq) each time, dried over MgSO4 and concentrated in vacuo. Purification took place by chromatography (40 g of SiO2, eluent MeOH/DCM (gradient 0-10%). The desired product is obtained as colorless oil (0.130 g) with MW=267 (calculated, monoisotopic), measured value: (M+Na)+ 290.

reactant | 2-amino-3-methylhydroxypropanoic acid | 2.1 mmol, 250 mg | NC(C(=O)O)(CC)O | C4H9NO3
reactant | SOCl2 | 2.1 mmol, 0.153 ml | O=S(Cl)Cl | Cl2OS
reactant | benzyl chloroformate | 1.995 mmol, 0.285 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
reactant | MeOH | 9 ml | CO | CH4O
product | Methyl 2-benzyloxycarbonylamino-3-hydroxy-2-methylpropionate | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)(CO)C | C13H17NO5
